spice
* NMOS Transistor Circuit
M1 5 2 3 3 NMOS  ; NMOS (Drain=5, Gate=2, Source=3, Bulk=3)

R1 1 2 60k  ; Resistor R1 (60 kΩ)
R2 2 3 30k  ; Resistor R2 (30 kΩ)
RD 5 3 4k   ; Resistor RD (4 kΩ)

Vplus 1 0 2.5  ; Voltage Source V+ (+2.5 V)
Vminus 3 4 2.5 ; Voltage Source V- (-2.5 V)

.model NMOS NMOS (level=1) ; NMOS Model

.end